US04745116
A solution of ethyl 2-amino-3-methyl-6-ethyl-4-nitro-benzoate (70 mg, 0.000277 mol) in anhydrous tetrahydrofuran (5 ml) was added slowly to a solution of trichloromethyl chloroformate (43 mg) in tetrahydrofuran (5 ml). The solution was stirred for 2 hrs. at room temperature and then added slowly to a solution of ethanol (1 ml), triethylamine (0.05 ml) in tetrahydrofuran (5 ml). The resulting mixture was sitirred for 2 hrs. and evaporated to dryness. The residue was partitioned between ethyl acetate and water. The organic layer was dried over magnesium sulphate and evaporated to dryness. This material was purified by thick layer plate chromatography to yield ethyl 6-ethyl-3-methyl-2-ethoxycarbonylamino-4-nitrobenzoate. Yield: 35 mg, IR (CHCl3): 3420, 1730, 1530, 1500 cm-1. H-NMR: 1.10-1.50 (overlapping peaks [3t], 9H, CH3CH2, CH3CH2O, CH3CH2O), 2.31 (s, 3H, CH3), 2.70 (q, 2H, CH3CH2Ar), 4.20 (q, 2H, CH2O), 4.40, (q, 2H, CH2O), 6.60 (br.s, 1H, NH), 7.69 (s, 1H, ArH).

reactant | ethyl 2-amino-3-methyl-6-ethyl-4-nitro-benzoate | 0.000277 mol, 70 mg | NC1=C(C(=O)OCC)C(=CC(=C1C)[N+](=O)[O-])CC | C12H16N2O4
reactant | trichloromethyl chloroformate | 43 mg | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | ethyl 6-ethyl-3-methyl-2-ethoxycarbonylamino-4-nitrobenzoate | C(C)C1=CC(=C(C(=C1C(=O)OCC)NC(=O)OCC)C)[N+](=O)[O-] | C15H20N2O6
